US06166006
In 1,2-dichloroethane (50 ml) were suspended p-nitrobenzylamine hydrochloride (3 g), 1,3-dimethoxyacetone (1.9 g) and triethylamine (2.2 ml), and to the mixture was added, under ice-cooling, triacetoxy sodium boro hydride (4.7 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 5 hours, and to the mixture were added, under ice-cooling, 37% formalin (1.8 ml) and triacetoxy sodium boro hydride (5 g). Under nitrogen atmosphere, the mixture was stirred at room temperature overnight, and the solvent was evaporated. The residue was neutralized withlN sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column (ethyl acetate/hexane) to give N-(1,3-dimethoxypropan-2-yl)-N-methyl-4-nitrobenzylamine (3.2 g) as yellow oil.

reactant | p-nitrobenzylamine hydrochloride | 3 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | 1,3-dimethoxyacetone | 1.9 g | COCC(=O)COC | C5H10O3
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | formalin | 1.8 ml | C=O | CH2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-(1,3-dimethoxypropan-2-yl)-N-methyl-4-nitrobenzylamine | 3.2 g | COCC(COC)N(C)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H20N2O4
